US04235912
0.6 g (0.0021 moles) of 6-methyl-8β-hydrazino-methyl-ergoline are introduced, under vigorous stirring, into a solution of 0.28 ml (0.0025 moles) of N-methyl-morpholine in 60 ml of dry chloroform. When the solid dissolves completely, a solution of 0.184 g (0.0023 moles) of acetyl chloride in 2 ml of acetonitrile is added dropwise, within 5 minutes, to the mixture. After the addition the pH of the mixture is checked, and when it is lower than 6, N-methyl-morpholine is introduced. The reaction mixture is stirred at room temperature for one hour, thereafter it is diluted with 30 ml of water, and the pH of the mixture is adjusted to 8 with aqueous ammonia. The mixture is shaken, the phases are separated from each other, the organic phase is washed twice with water, dried, and evaporated to dryness in vacuo. The dry residue is crystallized from ethanol. The separated crystals are filtered off, washed with a small amount of cold (5° C.) ethanol, and dried in vacuo. 0.5 g (72.4%) of 6-methyl-8β-([N'-acetyl-hydrazino]-methyl)-ergoline are obtained; m.p.: 213°-215° C., [α]D20 =-38.7° (c=1, in 96% ethanol).

reactant | 6-methyl-8β-hydrazino-methyl-ergoline | 0.0021 moles, 0.6 g | CN1C[C@@](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)(NN)C | C16H22N4
reactant | N-methyl-morpholine | 0.0025 moles, 0.28 ml | CN1CCOCC1 | C5H11NO
reactant | acetyl chloride | 0.0023 moles, 0.184 g | C(C)(=O)Cl | C2H3ClO
reactant | ammonia | N | H3N
reactant | water | 30 ml | O | H2O
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 6-methyl-8β-([N'-acetyl-hydrazino]-methyl)-ergoline | 0.5 g, 72.4% | CN1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)CNNC(C)=O | C18H24N4O
